US09193723B2
4-(3-imidazo[1,2-a]pyridin-6-ylureido)benzoic acid
A solution of methyl 4-(3-imidazo[1,2-a]pyridin-6-ylureido)benzoate (2.1 g, 6.77 mmol) in tetrahydrofuran (18.05 ml) and methanol (9.02 ml) was treated with 2N lithium hydroxide (13.53 ml, 27.1 mmol) and the reaction was allowed to stir at room temperature for 16 hours. The mixture was concentrated, redissolved in 225 mL water and acidified to ˜pH 4 with 3N hydrochloric acid. The suspension was filtered with water washes to give the title compound after vacuum drying.

reactant | methyl 4-(3-imidazo[1,2-a]pyridin-6-ylureido)benzoate | 6.77 mmol, 2.1 g | N=1C=CN2C1C=CC(=C2)NC(NC2=CC=C(C(=O)OC)C=C2)=O | C16H14N4O3
reactant | lithium hydroxide | 27.1 mmol, 2N, 13.53 ml | [OH-].[Li+]
solvent | tetrahydrofuran | 18.05 ml | O1CCCC1 | C4H8O
solvent | methanol | 9.02 ml | CO | CH4O
product | 4-(3-imidazo[1,2-a]pyridin-6-ylureido)benzoic acid | N=1C=CN2C1C=CC(=C2)NC(NC2=CC=C(C(=O)O)C=C2)=O | C15H12N4O3
